US04971993
N-t-butyloxycarbonyl-L-seryl-L-proline benzylester (33.99 g, 86.6 mmole) was dissolved in 4N hydrochloric acid in dioxane (300 ml) solution, and stirred for 1 hour at room temperature. To the solution, diethyl ether (500 ml) and n-hexane (100ml) were added to give L-seryl-L-proline benzylester hydrochloride (yield: 28.03 g, 98.4%).

reactant | N-t-butyloxycarbonyl-L-seryl-L-proline benzylester | 86.6 mmole, 33.99 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CO)=O)=O | C20H28N2O6
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | n-hexane | 100ml | CCCCCC | C6H14
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | L-seryl-L-proline benzylester hydrochloride | yield: 28.03 g, 98.4% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)CO)=O)=O | InChI=1S/C15H20N2O4.ClH/c16-12(9-18)14(19)17-8-4-7-13(17)15(20)21-10-11-5-2-1-3-6-11;/h1-3,5-6,12-13,18H,4,7-10,16H2;1H/t12-,13-;/m0./s1
